US04463172
To a solution of 656 mg of diphenylmethyl 7-amino-2α-methyl-3-methoxyiminomethylceph-3-em-4-carboxylate in 30 ml of CH2Cl2 were added, at -20° C., 0.2 ml of Et3N and 407 mg of 2-(2-chloroacetylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetylchloride, and the mixture was stirred at from -20° C. to -15° C. for 1.5 hours. The reaction solution was washed with H2O, 5% aqueous NaHCO3 and saturated aqueous NaCl solution, successively, and dried over MgSO4, followed by distilling off the CH2Cl2 under reduced pressure. The residue was added on a column of silica gel, and the fractions eluted with CH2Cl2.AcOEt (15:1) were collected to distill off the solvent under reduced pressure, thus yielding 783 mg (75%) of diphenylmethyl 7-[2-(2-chloroacetylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-2α-methyl-3-methoxyiminomethylceph-3-em-4-carboxylate.

reactant | diphenylmethyl 7-amino-2α-methyl-3-methoxyiminomethylceph-3-em-4-carboxylate | 656 mg | NC1[C@@H]2N(C(=C([C@H](S2)C)C=NOC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H23N3O4S
reactant | Et3N | 0.2 ml | CCN(CC)CC | C6H15N
reactant | 2-(2-chloroacetylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetylchloride | 407 mg | ClCC(=O)NC=1SC=C(N1)/C(/C(=O)Cl)=N/OC | C8H7Cl2N3O3S
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | diphenylmethyl 7-[2-(2-chloroacetylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-2α-methyl-3-methoxyiminomethylceph-3-em-4-carboxylate | 783 mg, 75% | ClCC(=O)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C([C@H](S2)C)C=NOC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C31H29ClN6O7S2
